US04003936
2-Acetyl-1,3-cyclopentanedione (3.39 g.) was treated with piperonal (4.79 g.) in 60 ml. of dimethylsulfoxide in the presence of 5 ml. of morpholine at 85° C for 45 minutes. After cooling, the reaction mixture was poured into 150 ml. of water containing 7 ml. of conc. hydrochloric acid. Deposited crystals were separated by filtration and washed with water, and dried. 2-(3,4-Methylenedioxycinnamoyl)-1,3-cyclopentanedione (3.23 g.) was obtained in a yellow crystalline form, which showed mp. 181° - 182° C. after recrystallization from a mixed solvent of dioxane and ethanol.

reactant | 2-Acetyl-1,3-cyclopentanedione | 3.39 g | C(C)(=O)C1C(CCC1=O)=O | C7H8O3
reactant | piperonal | 4.79 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 7 ml | O | H2O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2-(3,4-Methylenedioxycinnamoyl)-1,3-cyclopentanedione | 3.23 g | C1OC=2C=C(C=CC(=O)C3C(CCC3=O)=O)C=CC2O1 | C15H12O5
